**********************************************************************
*  (C) Copyright 2019 Toshiba Electronic Devices & Storage Corporation
*  Date:             12/06/2019
*  File Name:        TPHR6503PL_G0_00_PSpice_rev1.lib
*  Part Number:      TPHR6503PL_G0_00
*  Parameter Rev.:   1
*  Simulator:        PSpice (OrCAD 17.2)
*  Model Call Name:  NMOS_TPHR6503PL_G0_00
*  TNOM:             25 degree
*  Pin Assign:       1=Drain 2=Gate 3=Source
*
* Operation of this model has been verified only on the OrCAD.
**********************************************************************
.SUBCKT TPHR6503PL 1 2 3
M0 1 22 3 3 smsmosfet
+ L = 7e-07
+ W = 23
+ AD = 2.3E-005
+ AS = 2.3E-005
+ PD = 46
+ PS = 46
D0 3 1 DDS1
D1 3 1 DDS2
D2 2 10 DGS1
D3 3 10 DGS2
R2 10 2 1E+009
R3 10 3 1E+009
RG 2 22 0.6
.MODEL smsmosfet NMOS
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 4.3e-08
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 2.63
+ VOFF = -0.164
+ NFACTOR = 1.25
+ U0 = 1143
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 1.3298e-09
+ UB = 5.87E-019
+ UC = -4.65E-011
+ VSAT = 143274.4852
+ A0 = 16.0679
+ AGS = 1.6496
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.10547
+ RDSW = 7700
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 2.4E-004
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.0679
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 1e-05
+ PDIBLC1 = 0.1
+ PDIBLC2 = 0.20348
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-009
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 0
+ XPART = 0
+ CGSO = 4.5e-10
+ CGDO = 1e-11
+ CGBO = 0
+ CGDL = 5.3e-10
+ CGSL = 1.4e-09
+ CKAPPA = 6.5
+ CF = 0
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 0
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 1
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.5
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -1.9
+ KT1 = -0.87
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 10000
+ PRT = 10500
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 9.836
.MODEL DDS1 D
+ TNOM = 25
+ IS = 3.6732e-10
+ RS = 1.941e-07
+ N = 1.2003
+ CJO = 7.6e-09
+ VJ = 0.9
+ M = 0.5
+ XTI = 0
+ TT = 2.8e-08
+ BV = 30
+ IBV = 0.01
.MODEL DDS2 D
+ TNOM = 25
+ IS = 3.6732e-10
+ RS = 1.941e-07
+ N = 1.2003
+ CJO = 1E-15
+ VJ = 0.7
+ M = 0.3
+ XTI = 0
+ TT = 2.8e-08
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-015
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-015
.ENDS


