**********************************************************************
*  (C) Copyright 2019 Toshiba Electronic Devices & Storage Corporation
*  Date:             09/05/2019
*  File Name:        TPN1200APL_G0_00_PSpice_rev1.lib
*  Part Number:      TPN1200APL_G0_00
*  Parameter Rev.:   1
*  Simulator:        PSpice (OrCAD 17.2)
*  Model Call Name:  NMOS_TPN1200APL_G0_00
*  TNOM:             25 degree
*  Pin Assign:       1=Drain 2=Gate 3=Source
*
* Operation of this model has been verified only on the OrCAD.
**********************************************************************
.SUBCKT TPN1200APL 1 2 3
M0 1 22 3 3 smsmosfet
+ L = 1e-06
+ W = 1.7
+ AD = 1.7e-06
+ AS = 1.7e-06
+ PD = 3.4
+ PS = 3.4
D0 3 1 DDS1
D1 3 1 DDS2
D2 2 10 DGS1
D3 3 10 DGS2
R2 10 2 1E+009
R3 10 3 1E+009
RG 2 22 2.1
.MODEL smsmosfet NMOS
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 3.3e-08
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 2.868
+ VOFF = -0.16
+ NFACTOR = 2
+ U0 = 2500
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 1.3333e-12
+ UB = 5.87E-019
+ UC = -4.65E-011
+ VSAT = 32105.8729
+ A0 = 0.51034
+ AGS = 9.8758
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.084455
+ RDSW = 16000
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 2.4E-004
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.084147
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 0.1
+ PDIBLC1 = 0.2
+ PDIBLC2 = 0.00067946
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-009
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 0
+ XPART = 0
+ CGSO = 3.7e-09
+ CGDO = 1e-12
+ CGBO = 0
+ CGDL = 3.5e-09
+ CGSL = 5.1e-09
+ CKAPPA = 0.57
+ CF = 0
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 0
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 1
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.5
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -1
+ KT1 = -0.8
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 14000
+ PRT = 35500
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.77
.MODEL DDS1 D
+ TNOM = 25
+ IS = 9.9994e-10
+ RS = 0.0015553
+ N = 1.3873
+ CJO = 8.6e-10
+ VJ = 0.9
+ M = 0.41
+ XTI = -10
+ TT = 2.95e-08
+ BV = 100
+ IBV = 0.01
.MODEL DDS2 D
+ TNOM = 25
+ IS = 9.9994e-10
+ RS = 0.0015553
+ N = 1.3873
+ CJO = 1E-15
+ VJ = 0.7
+ M = 0.3
+ XTI = -10
+ TT = 2.95e-08
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-015
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-015
.ENDS


